US08138197B2
Methyl 3-hydroxy-5-[({[2-(trimethylsilyl)ethyl]oxy}methyl)tetrazol-5-yl]benzoate
In a nitrogen atmosphere, 10% palladium-carbon (2.4 g) was added to an EtOH (35 mL)-THF (35 mL) mixed solution of methyl 3-benzyloxy-5-[({[2-(trimethylsilyl)ethyl]oxy}methyl)-tetrazol-5-yl]benzoate (4.02 g), and in a hydrogen atmosphere this was stirred at room temperature for 2 hours. The reaction liquid was filtered through Celite, concentrated under reduced pressure, and dried to obtain the title compound as a white powder. Not purified, this was used in the next step.

reactant | EtOH | 35 mL | CCO | C2H6O
reactant | methyl 3-benzyloxy-5-[({[2-(trimethylsilyl)ethyl]oxy}methyl)-tetrazol-5-yl]benzoate | 4.02 g | C(C1=CC=CC=C1)OC=1C=C(C(=O)OC)C=C(C1)C1=NN=NN1COCC[Si](C)(C)C | C22H28N4O4Si
reactant | hydrogen | [H][H] | H2
catalyst | palladium-carbon | 2.4 g | [C].[Pd]
solvent | THF | 35 mL | C1CCOC1 | C4H8O
product | Methyl 3-hydroxy-5-[({[2-(trimethylsilyl)ethyl]oxy}methyl)tetrazol-5-yl]benzoate | OC=1C=C(C(=O)OC)C=C(C1)C1=NN=NN1COCC[Si](C)(C)C | C15H22N4O4Si
